US05116843
8,8-Dimethyl-2-(3-methyl-1H-pyrazol-5-yl)-5,6,7,8-tetrahydro-1H-imidazo[4,5-g]quinolin-6-one
1.5 g. (13.6 mmole) 3-methyl-1H-pyrazole-5-aldehyde was stirred with 4.5 g. sodium hydrogen sulphite in 9 ml. water for 3 hours at 60° C. The evaporation residue was stirred with 2.79 g. (13.6 mmole) 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2-one and 40 ml. ethanol for 3 hours at 60° C. while passing through air. Half of the ethanol was distilled off, water was added and the residue was filtered off with suction and recrystallized from ethyl acetate/methanol to give 3.3 g. (82.5% of theory) of the title compound; m.p. 242°-245° C.

reactant | 3-methyl-1H-pyrazole-5-aldehyde | 13.6 mmole | CC1=NNC(=C1)C=O | C5H6N2O
reactant | sodium hydrogen sulphite | S(=O)(O)[O-].[Na+]
reactant | water | O | H2O
reactant | 4,4-dimethyl-6,7-diamino-1,2,3,4-tetrahydroquinolin-2-one | 13.6 mmole | CC1(CC(NC2=CC(=C(C=C12)N)N)=O)C | C11H15N3O
solvent | ethanol | C(C)O | C2H6O
product | 8,8-Dimethyl-2-(3-methyl-1H-pyrazol-5-yl)-5,6,7,8-tetrahydro-1H-imidazo[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=CC(=NN3)C)=O)C | C16H17N5O
